US07541478B2
[4-(3-bromophenyl)-7-chloro-6-methyl-2-oxo-2H-chromen-3-yl]acetic acid
2N NaOH (51.6 ml) was added to a mixture of ethyl[4-(3-bromophenyl)-7-chloro-6-methyl-2-oxo-2H-chromen-3-yl]acetate (15 g) and ethanol (135 ml), and the mixture was stirred at 70° C. for 1 hour. After the mixture was cooled to 25° C., pH was adjusted to 2.0 by adding 6N HCl (17.7 ml) dropwise at the same temperature to make crystals precipitate. After the mixture was stirred at 25° C. for 1 hour, crystals were collected, washed with ethanol/water (2/1, 30 ml) and dried under reduced pressure to obtain the title compound (13.5 g, yield 96.4%).

reactant | NaOH | 2N, 51.6 ml | [OH-].[Na+]
reactant | ethyl[4-(3-bromophenyl)-7-chloro-6-methyl-2-oxo-2H-chromen-3-yl]acetate | 15 g | C(C)OC(CC=1C(OC2=CC(=C(C=C2C1C1=CC(=CC=C1)Br)C)Cl)=O)=O | C20H16BrClO4
reactant | HCl | 6N, 17.7 ml | Cl | ClH
solvent | ethanol | 135 ml | C(C)O | C2H6O
product | [4-(3-bromophenyl)-7-chloro-6-methyl-2-oxo-2H-chromen-3-yl]acetic acid | 13.5 g, yield 96.4% | BrC=1C=C(C=CC1)C1=C(C(OC2=CC(=C(C=C12)C)Cl)=O)CC(=O)O | C18H12BrClO4
